US07220742B2
c) 8-acetyl-6-benzyloxy-4H-benzo[1,4]oxazin-3-one
21.0 mL (258 mmol) chloroacetyl chloride are added dropwise to 60.0 g (233 mmol) 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone and 70.0 g (506 mmol) potassium carbonate while being cooled with the ice bath. Then the mixture is stirred overnight at ambient temperature and then for 6 hours at reflux temperature. The hot reaction mixture is filtered, then evaporated down to approx. 400 mL and combined with ice water. The precipitate obtained is suction filtered, dried and purified by chromatography on a short silica gel column (dichloromethane:methanol=99:1). The fractions containing the product are evaporated down, suspended in isopropanol/diisopropylether, suction filtered and washed with diisopropylether. Yield: 34.6 g (50%); mass spectroscopy [M+H]+=298.

reactant | chloroacetyl chloride | 258 mmol, 21.0 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-(3-amino-5-benzyloxy-2-hydroxy-phenyl)-ethanone | 233 mmol, 60.0 g | NC=1C(=C(C=C(C1)OCC1=CC=CC=C1)C(C)=O)O | C15H15NO3
reactant | potassium carbonate | 506 mmol, 70.0 g | C([O-])([O-])=O.[K+].[K+]
product | 8-acetyl-6-benzyloxy-4H-benzo[1,4]oxazin-3-one | C(C)(=O)C1=CC(=CC=2NC(COC21)=O)OCC2=CC=CC=C2 | C17H15NO4
